US07148234B2
STEP 1. 2-{4-[(2,6-Dimethyl-3-nitro-4-pyridinyl)amino]phenyl}ethanol
The title compound was prepared according to the procedure described in step 3 of Example 1 from 4-chloro-2,6-dimethyl-3-nitropyridine (Tanaka, A.; et al. J. Med. Chem., 1999, 41, 4408.) and 4-aminophenylethyl alcohol.

reactant | 4-chloro-2,6-dimethyl-3-nitropyridine | ClC1=C(C(=NC(=C1)C)C)[N+](=O)[O-] | C7H7ClN2O2
reactant | 4-aminophenylethyl alcohol | NC1=CC=C(C=C1)CCO | C8H11NO
product | 2-{4-[(2,6-Dimethyl-3-nitro-4-pyridinyl)amino]phenyl}ethanol | CC1=NC(=CC(=C1[N+](=O)[O-])NC1=CC=C(C=C1)CCO)C | C15H17N3O3
